US07550481B2
A solution of Boc-3-amino-2-methyl-4-phenylbutan-2-ol (0.34 g, 1.2 mmol) in 100 mL ethyl acetate was saturated with HCl gas and stirred at ambient temperature for 1 hour. The reaction was evaporated in vacuo to give 3-amino-2-methyl-4-phenylbutan-2-ol hydrochloride as a white solid: 1H NMR (400 MHz, CDCl3) δ 8.05 (bs, 2H), 7.33 (m, 5H), 3.34 (m, 1H), 3.02 (m, 2H), 1.37 (s, 3H), 1.33 (s, 3H).

reactant | Boc-3-amino-2-methyl-4-phenylbutan-2-ol | 1.2 mmol, 0.34 g | C(=O)(OC(C)(C)C)CC(C(CC1=CC=CC=C1)N)(O)C | C16H25NO3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-2-methyl-4-phenylbutan-2-ol hydrochloride | Cl.NC(C(C)(O)C)CC1=CC=CC=C1 | InChI=1S/C11H17NO.ClH/c1-11(2,13)10(12)8-9-6-4-3-5-7-9;/h3-7,10,13H,8,12H2,1-2H3;1H
